US03962288
Preparation of 1-n-butyl-6,7-dimethyl-1,2,3,4-tetrahydroanthraquinone, compound 5b
A 3.0 g. sample of the butadiene dimer-6,7-dimethylnaphthoquinone adduct was dissolved in 100 ml. benzene. After the addition of 0.30 g. 10% Pd/C catalyst, the mixture was hydrogenated at 35 psi for four hours. After removal of catalyst by filtration, five drops DBN were added and the mixture was stirred overnight while exposed to air. The benzene was then blown off with air and the residue chromatographed on acidic alumina with a 9:1 benzene-ethyl acetate solution. The crude product (1.1 g.; 36% yield) was recrystallized from methanol to give an analytical sample with m.p. 88°-90°C.

reactant | butadiene dimer 6,7-dimethylnaphthoquinone | C=CC1CCC=CC1.CC=1C=C2C(C=CC(C2=CC1C)=O)=O
reactant | benzene | C1=CC=CC=C1 | C6H6
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-n-butyl-6,7-dimethyl-1,2,3,4-tetrahydroanthraquinone | 1.1 g, 36% yield | C(CCC)C1CCCC=2C(C3=CC(=C(C=C3C(C12)=O)C)C)=O | C20H24O2
